US07425634B2
(9f) 4-(5,9-dioxaspiro[3.5]non-7-yloxy)-2,3-dimethylpyridine 1-oxide
To a dimethyl formamide (30 ml) solution of the 5,9-dioxaspiro[3.5]nonan-7-ol (1.68 g, 11.7 mmol) obtained in the step (9e), sodium hydride, in oil (587 mg, 13.5 mmol as the content was regarded as 55%) was added at room temperature. The mixture was stirred at room temperature for 50 minutes. After 4-chloro-2,3-dimethylpyridine 1-oxide (1.84 g, 11.7 mmol) was added thereto, the mixture was stirred at 80° C. for 2 hours. The reaction mixture was concentrated and dimethylsulfoxide (30 ml) was added thereto and stirred at 80° C. After 12 hours, sodium hydride, in oil (587 mg, 13.5 mmol as the content was regarded as 55%) was added to the reaction mixture and stirred at 80° C. After one hour, the reaction mixture was concentrated and the residue was purified by silica gel column chromatography (NH silica gel, elution solvent: ethyl acetate, ethyl acetate/methanol=9/1) to obtain the title compound (2.00 g, yield: 64.4%) as a light yellow oil.

reactant | 5,9-dioxaspiro[3.5]nonan-7-ol | 11.7 mmol, 1.68 g | C1CCC12OCC(CO2)O | C7H12O3
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-2,3-dimethylpyridine 1-oxide | 11.7 mmol, 1.84 g | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-(5,9-dioxaspiro[3.5]non-7-yloxy)-2,3-dimethylpyridine 1-oxide | 2.00 g, yield: 64.4% | C1CCC12OCC(CO2)OC2=C(C(=[N+](C=C2)[O-])C)C | C14H19NO4
